US06080870
Step B: 4-(2'-Bromophenyl)benzyl alcohol
To a solution of 4-(2'-bromophenyl)benzaldehyde 1.55 g, 7.95 mmol) in ethanol (15 mL) at 0° C. was added sodium borohydride (2.22 g, 58.7 mmol) and the reation stirred for 1 hour. The reaction was quenched with saturated aq. NH4Cl and extracted into diethyl ether. The organic extracts were washed with brine, dried, (Na2SO4) and evaporated in vacuo. The residue was purified by chromatography (Silica gel, 25% EtOAc in hexanes) to afford the title compound as a colourless oil.

reactant | 4-(2'-bromophenyl)benzaldehyde | 7.95 mmol, 1.55 g | BrC1=C(C=CC=C1)C1=CC=C(C=O)C=C1 | C13H9BrO
reactant | sodium borohydride | 58.7 mmol, 2.22 g | [BH4-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 4-(2'-Bromophenyl)benzyl alcohol | BrC1=C(C=CC=C1)C1=CC=C(CO)C=C1 | C13H11BrO
